US07923585B2
At first, 100.0 g (0.64 mol) of l-menthol and 42.7 g (0.32 mol) of anhydrous aluminum chloride were added into a reaction vessel and after replacement with nitrogen, 500 ml of toluene was further added to the vessel and stirred with the mixture under the ice-cooling condition to cool the resulting mixture to 5° C. And while the temperature of the solution being kept at 5 to 10° C., 57 g of ethylene oxide was further added. On completion of the supply, the mixture was stirred for one more hour at a room temperature to complete the reaction. Next, the reaction solution was cooled again and washed with 150 ml of 10% aqueous hydrochloric acid while being kept at 20° C. or lower. After the reaction solution was washed again with 50 ml of saturated sodium hydrogen carbonate aqueous solution and then with 100 ml of saturated brine, water therein was removed with sodium sulfate and the solvent was recovered under reduced pressure to obtain 123.1 g of crude l-menthyloxyethanol. The obtained product was distilled to isolate and recover 45.7 g of an unreacted raw material, l-menthol, and refine and isolate 60.8 g of an aimed product, l-menthyloxyethanol. Theoretical yield: 47.4% based on l-menthol.

reactant | l-menthol | 0.64 mol, 100.0 g | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
reactant | aluminum chloride | 0.32 mol, 42.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethylene oxide | 57 g | C1CO1 | C2H4O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | l-menthyloxyethanol | 123.1 g, yield: 47.4% | C1(CC(C(CC1)C(C)C)OC(C)O)C | C12H24O2
